US06869954B2
1) Preparation of 4-carboxy-2-isobutyl-6-[4-(methylthio)-phenyl]-2H-pyridazin-3-one
To a solution of 4-methoxycarbonyl-6-[4-(methylthio)-phenyl]-2H-pyridazin-3-one (8.00 g, 29.0 mmol) in N,N-dimethylformamide (80 mL) were added potassium carbonate (8.02 g, 58.0 mmol) and isobutyl bromide (4.76 g, 34.8 mmol), and the mixture was stirred at 80° C. for 2 hours. The temperature of the reaction mixture was allowed to drop back to room temperature, and a saturated aqueous solution of sodium hydrogencarbonate was added. The mixture was then extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was distilled off. Following the procedure of Example 1(7), the residue was reacted to yield the title compound as a yellow solid [yield: 65.1% (2 steps)].

reactant | 4-methoxycarbonyl-6-[4-(methylthio)-phenyl]-2H-pyridazin-3-one | 29.0 mmol, 8.00 g | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)SC)=O | C13H12N2O3S
reactant | potassium carbonate | 58.0 mmol, 8.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyl bromide | 34.8 mmol, 4.76 g | C(C(C)C)Br | C4H9Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 4-carboxy-2-isobutyl-6-[4-(methylthio)-phenyl]-2H-pyridazin-3-one | yield: 65.1% | C(=O)(O)C=1C(N(N=C(C1)C1=CC=C(C=C1)SC)CC(C)C)=O | C16H18N2O3S
